US07060827B2
In like manner to the preparation of (±)-N4-(3,4-difluorophenyl)-5-fluoro-N2-[2-(N-methylamino)carbonyl-2,3-dihydrobenzofuran-5-yl]-2,4-pyrimidinediamine, the reaction of methyl amine Hydrogen Chloride with (±)-N4-(2,6-dimethoxypyridin-3-yl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine gave (+)-N4-(2,6-dimethoxypyridin-3-yl)-N2-[2,3-dihydro-2-(N-methylamino)carbonylbenzofuran-5-yl]-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.98 (d, 1H, J=8.1 Hz), 7.81 (d, 1H, J=3.6 Hz), 7.39 (bd, 1H, J=2.4 Hz), 7.06 (dd, 1H, J=2.4 and 8.7 Hz), 6.72 (d, 1H, J=8.1 Hz), 6.31 (d, 1H, J=8.7 Hz), 5.07 (dd, 1H, J=6.3 Hz), 3.96 (s, 3H), 3.93 (s, 3H), 3.46 (dd, 1H, J=7.8 and 10.5 Hz), 3.19 (dd, 1H, J=5.7 and 6.3 Hz), 2.77 (d, 3H, J=4.8 Hz); LCMS: purity: 98%; MS (m/e): 441 (MH+).

reactant | methyl amine Hydrogen Chloride | Cl.CN
reactant | (±)-N4-(2,6-dimethoxypyridin-3-yl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine | COC1=NC(=CC=C1NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)OC)C1)OC | C21H20FN5O5
product | (+)-N4-(2,6-dimethoxypyridin-3-yl)-N2-[2,3-dihydro-2-(N-methylamino)carbonylbenzofuran-5-yl]-5-fluoro-2,4-pyrimidinediamine | COC1=NC(=CC=C1NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)NC)C1)OC | C21H21FN6O4
